delta_loaded_network - fault test
Vin A 0 DC 12
Ra A B 29.781471
Rb B C 30.597767
Rc C A 29.738658
Rload B 0 30.185637
.op
.control
run
print v(A) v(B) v(C)
print @ra[i] @rb[i] @rc[i] @rload[i]
.endc
.end
